Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / oxycodone
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
___: Thoracentesis w chest tube insertion 
___: Thoracentesis w chest tube insertion

 
History of Present Illness:
___ male history of afib, ___, previous lumbar and 
cervical spine surgeries by Dr. ___ osteomyelitis 
___, and HFrEF who presents now with one half weeks of 
worsening back pain. He was seen prior to arrival at ___ 
___ emergency room where he was found to have had a 
CT of
lumbar spine concerning for discitis at L1-L2 with epidural 
abscess and probable to level as well as the pathologic 
fractures involving the L1-L2 vertebral bodies. Patient 
transferred to ___ for further 
management. Workup prior to arrival notable for white blood cell 
count 7.96, hemoglobin 11.6, hematocrit 34.6, MCV 107, platelet 
count 178,
neutrophils 81%, ESR 17, normal range ___, GFR 38, BUN 49, 
glucose 110, creatinine 1.76, calcium 8.9, sodium 142, potassium 
4.1, chloride 105, bicarb 25, bilirubin 0.6, alk phos 168, AST 
11, ALT 15, CRP 36.6. He was transferred from OSH after CT 
L-spine showed L1-2 discitis, osteomyelitis and pathologic
fracture.  
He presents today with low back and hip pain for the past 
several months which has worsened over the past 4 days. He 
reports intermittent weakness of the left lower extremity when 
changing from seated to standing which resolves with ambulation. 
Denies paresthesias or other weakness, intermittent bowel 
incontinence at baseline and no other bowel/bladder symptoms. 
Denies fevers/chills. He has recent falls due to losing his 
balance while walking and carrying large items but is unable to 
elaborate on this. Patient states he has a long history of 
chronic hip/back pain. His typical pain is bilateral hip, front 
think and buttock "shock like pain" without radiation that is 
daily, intensifies with movement (worst in AM when getting out 
of bed and out of a
chair) and when laying flat. He typically takes ___ advil in the 
morning before he gets out of bed but this doesn't help very 
much. He reports he has never tried typical neuropathic pain 
agents. He describes worsening of the pain for the last ___ 
months without a clear provoking etiology. For the last ___ 
days,
he has noted working shock like pain especially in hips and a 
mild ache in his mid back. He does report he fell up the stairs 
3 weeks ago while carrying packages (the weight carried him 
forward) and he landed on his chest but did not note worsening 
in his chronic pain at that time. He specifically denies chest 
pain, dyspnea, jaw/arm pain, diaphoresis, nausea recently or 
today. He
denies recent fevers, chills, night sweats, weight loss. He 
reports he has had two episodes of spinal infection and was 
unsure of his symptoms at that point. Patient denied any saddle 
anesthesia, urinary retention, bowel or bladder incontinence, or 
fevers. Patient did describe intermittent weakness of left lower 
extremity and numbness of the whole leg that occurs with 
position but none now.  
 
Past Medical History:
Afib on warfarin
CAD s/p stent placement
CHF with EF ___
mitral valve prolapse
HTN
HLD
depression
chronic neck pain secondary to cervical disc disease
multiple spine surgeries including fusion of L-S1 laminectomy 
cholecystectomy
Total knee replacement
B/l shoulder surgery

 
Social History:
___
Family History:
Mother: alive, age ___. Macular degeneration
Father: deceased in ___. ?brain tumor and heart issues

 
Physical Exam:
ADMISSON PHYSICAL EXAM
=====================
VITALS:  98.1 110 / 61 87 20 97 2LNc  
GENERAL: Alert and interactive. In no acute distress.
HEENT: Normocephalic, atraumatic. Pupils equal, round
bilaterally, extraocular muscles intact. Sclera anicteric and
without injection. Moist mucous membranes, good dentition.
Oropharynx is clear.  
NECK: No JVD.  
CARDIAC: Irreg irreg rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
No increased work of breathing.
BACK: No spinous process tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.  
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout, patient
grimacing when checking hip flexion. Normal sensation. AOx3.

DISCHARGE PHYSICAL EXAM:
=========================
VITALS:  97.7 PO 99/61 L Lying 80 18 92 2L 
GENERAL: Laying in bed, NAD
HEENT: EOMI grossly, anicteric sclera, MMM
HEART: Irregular rhythm, normal S1/S2, no murmurs, gallops, or
rubs. 
LUNGS: Diffusely decreased breath sounds
ABDOMEN: Normoactive bowel sounds. Soft, distended, tympanic,
nontender in all quadrants, no rebound/guarding.
EXTREMITIES: no cyanosis, clubbing, or edema, moving all 4
extremities with purpose, warm w good cap refill
NEURO: A/O X3 (person, place, time)
 
Pertinent Results:
___
=====================
___ 11:30PM BLOOD WBC-7.3 RBC-3.18* Hgb-11.5* Hct-34.1* 
MCV-107*# MCH-36.2*# MCHC-33.7 RDW-16.2* RDWSD-62.9* Plt ___
___ 11:30PM BLOOD Neuts-77.1* Lymphs-10.3* Monos-10.0 
Eos-1.4 Baso-0.8 Im ___ AbsNeut-5.63 AbsLymp-0.75* 
AbsMono-0.73 AbsEos-0.10 AbsBaso-0.06
___ 11:30PM BLOOD ___ PTT-28.8 ___
___ 11:30PM BLOOD Glucose-102* UreaN-44* Creat-1.5* Na-144 
K-3.5 Cl-103 HCO3-24 AnGap-17
___ 01:35PM BLOOD Calcium-8.5 Phos-4.2 Mg-1.2*
___ 01:35PM BLOOD VitB12-321
___ 07:12AM BLOOD TSH-1.6
___ 11:30PM BLOOD CRP-50.0*

___ 05:30PM BLOOD Cortsol-19.6
___ 07:56PM BLOOD CK-MB-3 cTropnT-0.46* ___
___ 06:27AM BLOOD ALT-30 AST-27 AlkPhos-191* TotBili-0.5
___ 03:00PM BLOOD calTIBC-251* Ferritn-829* TRF-193*
___ 01:35PM BLOOD SED RATE- 46

MICROBIOLOGY
=====================
___ 2:00 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 2:33 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ STOOL C. difficile DNA amplification assay- POSITIVE

___ 2:35 pm PLEURAL FLUID      PLEURAL FLUID. 
                            **FINAL REPORT ___
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
   FLUID CULTURE (Final ___:    NO GROWTH. 
   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 
___ MRSA SCREEN- NEGATIVE
___ Blood Culture x2: NO GROWTH 
___ 10:35 am PLEURAL FLUID      PLEURAL FLUID. 
                            **FINAL REPORT ___
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 
   FLUID CULTURE (Final ___:    NO GROWTH. 
   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 
___ Blood Culture x2: NO GROWTH, Routine-FINAL INPATIENT 
___ URINE CULTURE- NO GROWTH
___ Blood Culture x2 NO GROWTH 

PLEURAL FLUID ANALYSIS:
=======================
___ 10:35AM PLEURAL TotProt-2.4 Glucose-90 Creat-3.5 
LD(___)-104 Albumin-1.2 ___ Misc-BODY FLUID
___ 10:35AM PLEURAL TNC-62* RBC-___* Polys-4* Lymphs-75* 
Monos-8* Atyps-8* Macro-5* Other-0

___ 02:35PM PLEURAL TotProt-1.7 Glucose-89 Creat-1.6 
LD(___)-103 Albumin-1.1 Cholest-20
___ 02:35PM PLEURAL TNC-49* ___ Polys-23* Lymphs-74* 
Monos-2* Macro-1*

___ CTYOLOGY: NEGATIVE FOR MALIGNANT CELLS.
___ CTYOLOGY: NEGATIVE FOR MALIGNANT CELLS.

DISCHARGE LABS:
================
___ 04:35AM BLOOD WBC-7.1 RBC-2.53* Hgb-8.8* Hct-27.3* 
MCV-108* MCH-34.8* MCHC-32.2 RDW-16.7* RDWSD-66.0* Plt ___
___ 04:35AM BLOOD Glucose-88 UreaN-20 Creat-1.2 Na-140 
K-4.1 Cl-100 HCO3-26 AnGap-14
___ 04:35AM BLOOD Calcium-8.8 Phos-3.8 Mg-2.1

IMAGING
======================
MRI spine ___ IMPRESSION:
1.  Study is degraded by motion and by lumbar spinal fusion 
hardware artifact.
2. Cervical degenerative disc disease as detailed above, without 
high-grade
spinal canal narrowing or cord signal abnormality.  There is 
severe neural
foraminal narrowing at multiple levels.
3. Mild thoracic degenerative disc disease, without high-grade 
spinal canal or neural foraminal narrowing.
4. Loculated right pleural effusion basilar right lower lobe 
could reflect
atelectasis, however pneumonia cannot be excluded.  Chest CT is 
suggested.
5. Instrumented lumbar fusion at L4-S1, interbody fusion graft 
at L3-4 with
partial osseous fusion, and solid osseous fusion of the L2-3 
level as detailed above.
6. L1-2 disc extrusion with superior migration results in severe 
spinal canal narrowing.  There is probable impingement of the 
traversing L2 and possibly other nerve roots.  Allowing for 
difference technique, finding may be slightly progressed 
compared to ___ prior exam.
7.  Within limits of study, no definite evidence of 
discitis-osteomyelitis, or epidural abscess.
8. Probable subacute to chronic oblique fracture of the superior 
endplate of L2 with lateral extension through the lateral 
vertebral body.
9. Right L1-2 and bilateral L2-3 Severe neural foraminal 
narrowing.

CXR ___ IMPRESSION: 
There is a mild to moderate layering right pleural effusion.
There is dilation of colon at the splenic fracture.

CT A/P ___ IMPRESSION:
1. Volume loss in the right lower lobe may represent atelectasis 
or infection.
Please correlate with clinical status.
2. No retroperitoneal hematoma or free intra-abdominal fluid.
3. Intermediate density fluid in the bladder may represent 
delayed excretion
of iodinated contrast from prior CT study or hemorrhage 
products.  Please
correlate with visual inspection of the urine or urinalysis.
4. Moderate right pleural effusion.

TTE ___ IMPRESSION: 
Normal left ventricular cavity size with regional systolic 
dysfunction most c/w CAD (mid-LAD distribution vs. Takotsubo 
CM). Moderate mitral regurgitation. Mild pulmonary artery 
systolic hypertension. Mild-mderate tricuspid regurgitation. 

Abdominal x-ray ___ IMPRESSION: 
Gaseous distension of the colon, appearing unchanged compared to 
the recent CT scan

DX PELVIS & FEMUR ___: No fracture of the bilateral femurs. 

CT CHEST ___: 
1. Mild to moderate right pleural collection containing 
loculated fluid and air with a chest tube in situ.  
Mild-to-moderate free-flowing left pleural effusion. 
2. Bilateral patchy peripheral ground-glass opacities are 
concerning for an atypical infection.  Presence of interlobular 
septal thickening may be 
secondary to pulmonary edema.  Clinical correlation is 
recommended. 
3. Mild mediastinal and hilar lymphadenopathy is nonspecific and 
could be 
related to infections. 

PORTABLE ABDOMEN ___
Interval improvement of dilation of large bowel, however large 
bowel dilation has not resolved. 
There is no evidence of intraperitoneal free air.      
 
Brief Hospital Course:
PATIENT SUMMARY:
================
Mr. ___ is a ___ year old man with w/ HFrEF, CAD s/p stent, 
atrial fibrillation on Xarelto, ___ syndrome, CKD, chronic 
neck pain ___ cervical disc disease and multiple spine surgeries 
including fusion of L-S1 laminectomy who presented to OSH with 
___ weeks of worsening back pain and left hip pain, transferred 
for spine eval, with MRI negative for infection, admitted for 
pain management. Hospital course was complicated by oliguric 
renal failure in setting of contrast load on ___ and NSAID 
use, and hypotension in setting of receiving entresto and 
diuresis, requiring transfer to the MICU for worsening hypoxia 
and persistent hypotension. He was found to have R side pleural 
effusion with improvement after chest tube placement x2 ___, 
removed, replaced ___. Further hospital course complicated by 
C difficile.  

ACUTE ISSUES:
=============
#Hypoxemia  
#Right pleural effusion
#Concern for RLL PNA
#Trapped lung
On arrive to ED at ___, pt noted to be developing progressive 
hypoxemia requiring nasal cannula in setting of developing 
oliguric renal failure. Suspected multifactorial due to PNA, 
pleural effusion, & pulmonary edema from volume overload. 
Effusion likely chronic per review of imaging, and potentially 
has formed fibrosis causing trapped lung. s/p R side chest tube 
___, which was removed same day after minimal draining, 
replaced ___ for reaccumulation and quickly removed again. CT 
chest ___ also indicated possible atypical PNA, completed 7 day 
course of cefepime for HAP (___), transitioned briefly to 
ceftriaxone/azithro (___). He was also found to have e/o 
volume overload in setting of diuretic held and receiving IVF 
for hypotension. Hypoxia improved somewhat with gentle diuresis, 
and home Lasix was restarted three days prior to discharge with 
stable volume status and oxygen requirement. At time of 
discharge, he is still requiring oxygen although has decreased 
from 4L to 1.5-2L. Likely will remain dependent on oxygen until 
decortication after rehab. Eventual plan is to likely 
decortication per IP, who will follow outpt with patient in 4 
weeks, when he will also receive a chest CT. 

#Hypotension 
#History of Hypertension
Initially suspected PNA & Entresto use I/s/o sepsis. Entresto 
and diuretics were held. Per nephrology, sacubitril's inhibition 
of neprilysin leads to increase in several vasoactive substances 
including BNP and bradykinin which are vasodilators, and likely 
culprits for what appears to be his prior distributive 
hypotension. Metoprolol succinate home dose is 225 mg; he was 
switched to metoprolol succinate 50mg daily with good blood 
pressure and HR control. BP remained stable 99-103/62-70 since 
___. Discussed ___ meds with outpatient cardiologist 
Dr. ___ requested that patient remain on BB and at least 
a low-dose ACEi if tolerated. Started lisinopril 2.5mg daily on 
___, patient tolerating well on discharge. Holding home 
entresto on discharge. 

#C difficile infection
Pt w frequent loose stools that developed during 
hospitalization, found to be cdiff+ on ___ and started on PO 
vanc ___. Switched to PO flagyl (___) as infection not 
considered to be complicated, for 10d course ending ___. 

___ 
#?CKD
Likely multifactorial from CIN (given contrast on ___ at OSH), 
NSAID-use, valsartan in Entrosto +/- ATN. Cr 1.5 on admission 
___ and peaked to 3.4. Creatinine stable around 1.2-1.4 for 
the week prior to discharge, baseline unknown but likely has 
some underlying mild CKD. 

#Acute on chronic back pain  
#Hip/leg pain
Patient with hx of multiple prior spinal surgeries with hardware 
in place and spinal osteomyelitis/discitis/epidural abscess in 
___. He presented with 4 days of worsening back pain. CRP 50, 
concerning for infectious process, however MRI showed no e/o 
infection. Spine surgery consulted and no acute intervention 
needed. XR b/l femur showed generalized degenerative changes 
throughout b/l SI joints, hip joints, and pubic symphysis. No 
fracture. Etiology of pain unclear but likely multifactorial 
from DJD and frequent surgeries. Managed with lidocaine patches, 
acetaminophen standing, and tramadol PRN.

CHRONIC ISSUES:  
=============== 
#HFrEF, CAD  
#Troponinemia 
Pt with hx of CAD and HFrEF 35%, likely iCMP. Troponins mildly 
elevated in setting ___ to 0.46 without CK-MB elevation or 
ischemic changes on EKG. Continued home ASA 81mg and 
atorvastatin 10mg PO QD. For preload, held home metolazone given 
hypotension, diuresis as above. Home metop dosing was changed as 
above. Held home entresto given ___ and hypotension as above, 
started 2.5mg lisinopril for afterload mgmt per outpatient 
cardiologist. Will have outpatient followup.

#Afib (CHADS2VASC = 3)
Anticoagulation was briefly held for chest tube placement, after 
which home Xarelto was held. Home metoprolol changed as above, 
discharged on 50 mg succinate daily with good rate control.  

___ syndrome
Pt dx during an admission in ___. Was monitored during 
hospitalization, especially in setting of receiving narcotics, 
with some abdominal distension noted. KUB obtained ___ showed 
interval improvement in colonic distention from prior imaging.

#Gout: Continued home allopurinol ___ mg QD  

#Depression: Continued home sertraline 50 mg PO QD  

#GERD: Continued home omeprazole 20 mg PO QD  

#Acute on chronic macrocytic anemia MCV elevated from last 
admission: Continued Ferrous Sulfate 65 mg PO DAILY  

TRANSITIONAL ISSUES:  
======================  
NEW MEDICATIONS
-Acetaminophen 1g TID (for pain)
-Calcium carbonate 500mg QID PRN (heartburn)
-Ipratropium-Albuterol Neb Q4H PRN (SOB, wheezing) 
-Lidocaine 5% patch QPM (for pain)
-Lisinopril 2.5mg PO daily (for CHF, HTN)
-Flagyl 500mg PO Q8H (cdiff, abx course ___
-Ondansetron ODT 8mg PO Q8H PRN (nausea, vomiting) 
-Tramadol 50mg PO Q4H PRN (moderate pain)
-Tramadol 50mg PO BID PRN (severe pain)
-Oxygen support (usually on ___ NC)

CHANGED MEDICATIONS
-Metoprolol succinate XL 50mg PO daily (changed from 125 QAM and 
100 QPM given hypotension)

STOPPED/HELD MEDICATIONS
-Metolazone 2.5mg PO every other day (held for hypotension, ___
-Sacubitril-Valsartan 24mg-26mg BID (held for hypotension, ___

OTHER:
[ ]Will follow-up with interventional pulm and Thoracics in 4 
weeks for chest CT and to discuss need for decortication of 
fibrotic trapped lung
[ ]S/P R side chest tube ___
[ ]Please discuss mgmt. of patient's HTN and CHF, his BPs 
remained soft (100s/50s) throughout hospitalization despite 
___ agents had been held for a week. 
[ ___ appt w PCP/cardiology Dr. ___ on ___
[ ___ appt with IP to be scheduled, likely ___ as pt has chest 
CT scheduled that day
[ ]Pt being discharged to rehab on oxygen ___ NC). If unable 
to wean at rehab, will need home O2 as well.
[ ___ need further titration of pain medication with increased 
activity at rehab. 

#code status: full
#contact: ___ ___ (daughter)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Sertraline 50 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Metolazone 2.5 mg PO EVERY OTHER DAY  
7. Sacubitril-Valsartan (24mg-26mg) 1 TAB PO BID 
8. Metoprolol Succinate XL 125 mg PO DAILY 
9. Metoprolol Succinate XL 100 mg PO QHS 
10. Ferrous Sulfate 65 mg PO DAILY 
11. magnesium chloride 1250  oral DAILY 
12. Rivaroxaban 20 mg PO DAILY 
13. Furosemide 80 mg PO QAM 
14. Furosemide 40 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  Calcium Carbonate 500 mg PO QID:PRN heartburn  
3.  Ipratropium-Albuterol Neb 1 NEB NEB Q4H:PRN SOB, wheezing  
4.  Lidocaine 5% Patch 1 PTCH TD QPM  
5.  Lisinopril 2.5 mg PO DAILY  
6.  MetroNIDAZOLE 500 mg PO Q8H 
___ - ___  
7.  Ondansetron ODT 8 mg PO Q8H:PRN nausea, vomiting  
8.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
hold for somnolence or RR<12 
RX *tramadol 50 mg 1 tablet(s) by mouth every 4 hours as needed 
Disp #*18 Tablet Refills:*0 
9.  Metoprolol Succinate XL 50 mg PO DAILY  
10.  Allopurinol ___ mg PO DAILY  
11.  Aspirin 81 mg PO DAILY  
12.  Atorvastatin 10 mg PO QPM  
13.  Ferrous Sulfate 65 mg PO DAILY  
14.  Furosemide 80 mg PO QAM  
15.  Furosemide 40 mg PO QPM  
16.  magnesium chloride 1250  oral DAILY  
17.  Omeprazole 20 mg PO DAILY  
18.  Rivaroxaban 20 mg PO DAILY  
19.  Sertraline 50 mg PO DAILY  
20. HELD- Metolazone 2.5 mg PO EVERY OTHER DAY   This medication 
was held. Do not restart Metolazone until until you talk to your 
cardiologist
21. HELD- Sacubitril-Valsartan (24mg-26mg) 1 TAB PO BID  This 
medication was held. Do not restart Sacubitril-Valsartan 
(24mg-26mg) until you talk to you cardiologist

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary
-Acute hypoxemic respiratory failure
-Chronic pleural effusions
-Trapped lung, R side 
-Hypotension
-Acute kidney injury
-Cdiff infection
-Acute on chronic back, hip pain

SECONDARY
-Heart failure with reduced ejection fraction
-Coronary artery disease
-Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because you were having terrible back 
pain and the doctors at the ___ hospital were concerned you 
might have an infection in your back. 

While you were here, we did not see any evidence of infection in 
your back, but we did notice you had fluid behind your lungs 
(pleural effusions). We drained these, treated you for 
pneumonia, and gave you oxygen to support your breathing. 

We also noticed that your blood pressure was very low. We 
stopped your blood pressure medications for a little while, and 
restarted some of them at lower doses. Your cardiologist should 
talk to you about these at your follow-up appointment next week. 


When you leave, you will go to rehab to work on your strength 
and mobility. You will continue to use your oxygen until you 
feel more comfortable off of it. 

It was a pleasure to care for you. We wish you the best in your 
recovery. 
___ Medicine Care Team
 
Followup Instructions:
___